US08022075B2
5-[4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)phenyl]isooxazole (20)
Hydroxylamine hydrochloride (53 mg) was added to a solution (5 mL) of (E)-3-(dimethylamino)-1-[4-(6-iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-2-propen-1-one (104 mg) in ethanol, followed by refluxing for 2 hours. The solvent was evaporated, and the residue was purified through silica gel chromatography (dichloromethane:methanol=97:3), to thereby yield the title compound (24 mg).

reactant | Hydroxylamine hydrochloride | 53 mg | Cl.NO
reactant | (E)-3-(dimethylamino)-1-[4-(6-iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-2-propen-1-one | 5 mL, 104 mg | CN(/C=C/C(=O)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)I)C1)C | C18H16IN3O
solvent | ethanol | C(C)O | C2H6O
product | 5-[4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)phenyl]isooxazole | 24 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C2=CC=NO2 | C16H10IN3O
